US07153872B2
4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde (20 mg, 0.063 mmol) was dissolved in 2 ml anhydrous methanol. Sodium borohydride (3 mg, 0.069 mmol) was added and the reaction stirred at room temperature for 1 hour. The reaction was quenched with water and solvent was removed by rotary evaporation. The residue was purified on Biotage Flash 12S silica gel column using chloroform/methanol gradient system (97:3 to 95:5, respectively) as eluent to afford [4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazol-2-yl]-methanol (13 mg, 64% yield) as a white solid. HPLC tR=3.18 min, LC-MS=321 (M+1).

reactant | 4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde | 0.063 mmol, 20 mg | CN1N=C2C(=N1)C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)C=O | C17H14N6O
reactant | Sodium borohydride | 0.069 mmol, 3 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | [4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazol-2-yl]-methanol | 13 mg, 64% yield | CN1N=C2C(=N1)C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CO | C17H16N6O
